US07211573B2
0.30 g (0.97 mmol) ((6R,7S)-2-Fluoro-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester in 8 ml dimethylformamide were stirred with 0.14 ml (1.45 mmol) methyl bromoacetate and 0.48 g (1.45 mmol) cesium carbonate overnight. Extraction with water/ethylacetate and chromatography on silicagel with ethylacetate/heptane 1:4 yielded 0.37 g (quant.) ((6R,7S)-7-tert-butoxycarbonylamino-2-fluoro-6-methyl-8-oxo-7,8-dihydro-6H-5-oxa-9-aza-benzocyclohepten-9-yl)-acetic acid methyl ester, MS m/e (%): 383.1 (M+H+, 14), 327.3 (24), 283.4 (199).

reactant | ((6R,7S)-2-Fluoro-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-carbamic acid tert-butyl ester | 0.97 mmol, 0.30 g | C(C)(C)(C)OC(N[C@H]1[C@H](OC2=C(NC1=O)C=C(C=C2)F)C)=O | C15H19FN2O4
reactant | methyl bromoacetate | 1.45 mmol, 0.14 ml | BrCC(=O)OC | C3H5BrO2
reactant | cesium carbonate | 1.45 mmol, 0.48 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | ((6R,7S)-7-tert-butoxycarbonylamino-2-fluoro-6-methyl-8-oxo-7,8-dihydro-6H-5-oxa-9-aza-benzocyclohepten-9-yl)-acetic acid methyl ester | 0.37 g | COC(CN1C([C@H]([C@H](OC2=C1C=C(C=C2)F)C)NC(=O)OC(C)(C)C)=O)=O | C18H23FN2O6
